US06972295B2
N-(1,4-dimethyl-2-phenylpentyl)-2-(4-chlorophenoxy)-2-methylpropanamide
2-Amino-5-methyl-3-phenylhexane hydrochloride salt from Reference Example 26 (30 mg) was reacted with the acid chloride prepared from of 2-(4-chlorophenoxy)-2-methyl-propionic acid (37 mg) according to the procedure described in Example 62-63 to afford the title compound after purification by preparative TLC on silica gel eluted with 20% EtOAC-hexane. 1H NMR: (500 MHz, CDCl3): δ 0.83 and 0.85 (2d, 6H), 0.96 (d, 3H), 1.34 (m, 1H), 1.45 (m, 1 H), 1.53 (s, 3H), 1.59 (s, 3H), 2.73 (m, 1H), 4.24 (m, 1H), 6.41 (d, 1H), 6.8-7.4 (m, 9H). LC-MS: Rt=4.5 min. m/e=388.3 (M+1).

reactant | 2-Amino-5-methyl-3-phenylhexane hydrochloride salt | Cl.NC(C)C(CC(C)C)C1=CC=CC=C1
reactant | 2-(4-chlorophenoxy)-2-methyl-propionic acid | 37 mg | ClC1=CC=C(OC(C(=O)O)(C)C)C=C1 | C10H11ClO3
product | N-(1,4-dimethyl-2-phenylpentyl)-2-(4-chlorophenoxy)-2-methylpropanamide | CC(C(CC(C)C)C1=CC=CC=C1)NC(C(C)(C)OC1=CC=C(C=C1)Cl)=O | C23H30ClNO2
